US05780498
A mixture of 3-methylbiphenyl (5.23 g, 31.1 mmol), N-bromosuccinimide (5.56 g, 31.2 mmol), benzoyl peroxide (135 mg, 0.56 mmol), and carbon tetrachloride (150 ml) is refluxed for 17 h. The mixture is concentrated in vacuo and the residue is purified by flash column chromatography (hexane) to give 3-phenylbenzyl bromide.

reactant | 3-methylbiphenyl | 31.1 mmol, 5.23 g | CC=1C=C(C=CC1)C1=CC=CC=C1 | C13H12
reactant | N-bromosuccinimide | 31.2 mmol, 5.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.56 mmol, 135 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-phenylbenzyl bromide | C1(=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11Br
